US07074800B1
A solution of 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (100 mg, 0.29 mmol), 5-hydroxy-2-methylindole (53 mg, 0.36 mmol), (prepared as described for the starting material in Example 48), and potassium carbonate (62 mg, 0.44 mmol) in DMF (2 ml) was heated at 85° C. for 3 hours, followed by heating at 95° C. for 2 hours. After cooling, ice/water (15 ml) was added and the precipitate was collected by filtration and dried under vacuum. The solid was purified by column chromatography eluting with methylene chloride/methanol (95/5) followed by methylene chloride/methanol/3M ammonia in methanol (95/3/2) to give 6-methoxy-4-(2-methylindol-5yloxy)-7-(3-piperidinopropoxy)quinazoline (71 mg, 54%).

reactant | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 0.29 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
reactant | 5-hydroxy-2-methylindole | 0.36 mmol, 53 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | potassium carbonate | 0.44 mmol, 62 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(2-methylindol-5yloxy)-7-(3-piperidinopropoxy)quinazoline | 71 mg, 54% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCCC1)OC=1C=C2C=C(NC2=CC1)C | C26H30N4O3
